US08580957B2
[1-(1H-1,2,3-Benzotriazol-1-yl)ethyl](4-bromophenyl)amine
To a suspension of benzotriazole (139 g, 1.16 mol) in toluene (2 L) in a 3 L, four neck flask under nitrogen atmosphere was added at room temperature a solution of 4-bromoaniline (200 g, 1.16 mol) in toluene (300 mL). Then, via an addition funnel was added drop wise acetaldehyde (64.7 ml, 1.17 mol) in solution in toluene (200 mL). The reaction mixture becomes progressively homogenous and then gives a precipitate. The resulting mixture is stirred 12 hours under nitrogen atmosphere and then filtered. The precipitate is recrystallised in toluene to afford the title compound as a white solid (304 g, 82%).

reactant | benzotriazole | 1.16 mol, 139 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 4-bromoaniline | 1.16 mol, 200 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | acetaldehyde | 1.17 mol, 64.7 ml | C(C)=O | C2H4O
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | [1-(1H-1,2,3-Benzotriazol-1-yl)ethyl](4-bromophenyl)amine | 304 g, 82% | N1(N=NC2=C1C=CC=C2)C(C)NC2=CC=C(C=C2)Br | C14H13BrN4
